US06350749B1
To a mixture of 5-(2-methylphenyl)cyclohexane-1,3-dione (1.5 g), 1-amino-2-butyne hydrochloride (0.86 g), molecular sieves 4A (2 g) and tetrahydrofuran (20 ml) was added triethylamine (0.74 g), and the mixture was stirred at room temperature for 1 hour and then refluxed for 17 hours and cooled. Insoluble materials were filtered off. Under reduced pressure, the solvent was evaporated, and the residue was stirred at 220° C. for 4 hours, to which were added ethyl acetate and sodium hydrogen carbonate solution. The organic layer was washed with water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure, and the residue was purified with silica gel column chromatography (EtOAc/hexane). The resulting crystals were recrystallized from ethyl acetate-hexane to give colorless crystals of 4-methyl-7-(2-methylphenyl)-5,6,7,8-tetrahydroquinolin-5-one (0.52 g).

reactant | 5-(2-methylphenyl)cyclohexane-1,3-dione | 1.5 g | CC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C13H14O2
reactant | 1-amino-2-butyne hydrochloride | 0.86 g | Cl.NCC#CC
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.74 g | C(C)N(CC)CC | C6H15N
product | 4-methyl-7-(2-methylphenyl)-5,6,7,8-tetrahydroquinolin-5-one | 0.52 g | CC1=CC=NC=2CC(CC(C12)=O)C1=C(C=CC=C1)C | C17H17NO
